US04728663
N-[4-(1H-Imidazol-1-yl)butyl]benz[cd]indol-2-amine, monohydroiodide
A 2.2 g portion 4(1H-imidazol-1-yl)butanamine dihydrochloride and 2 ml of 10N sodium hydroxide in 200 ml of ethanol was stirred for 10 minutes and then treated with 3.2 g of 2-(methylthio)benz[cd]indole hydroiodide. This mixture was heated at reflux for 16 hours and then cooled to -10° C. The mixture was reheated to boiling, clarified while hot and the filtrate cooled to -10° C. The solid was collected, washed with ethanol, then ether and dried at 60° C. in vacuo, giving 2.0 g of the desired product, mp 144°-147° C.

reactant | 4(1H-imidazol-1-yl)butanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)CCCCN
reactant | sodium hydroxide | 10N, 2 ml | [OH-].[Na+]
reactant | 2-(methylthio)benz[cd]indole hydroiodide | 3.2 g | I.CSC1=NC2=CC=CC=3C2=C1C=CC3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-[4-(1H-Imidazol-1-yl)butyl]benz[cd]indol-2-amine, monohydroiodide | 2.0 g | I.N1(C=NC=C1)CCCCNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C18H18N4.HI/c1(2-11-22-12-10-19-13-22)9-20-18-15-7-3-5-14-6-4-8-16(21-18)17(14)15;/h3-8,10,12-13H,1-2,9,11H2,(H,20,21);1H
